US07196104B2
Preparation AN: Methyl 2-[(6-bromo-2-pyridylmethyl)amino]-3-methyl-butyrate
To a stirred solution of L-valine methyl ester hydrochloride (0.54 g, 3.24 mmol) in dry toluene (15 mL) at 80° C. was added DIEA (2.0 mL 11 mmol) followed by (6-bromo-2-pyridyl)formaldehyde (0.50 g, 2.70 mmol). The resulting mixture was heated at 80° C. for 3 h. The reaction was brought to RT and a solution of NaBH(OAc)3 (1.4 g, 6.75 mmol) in glacial AcOH (4 mL) was added. The resulting mixture was stirred for 15 h and concentrated by rotary evaporation. The resulting yellow oil was dissolved in CH2Cl2 (100 mL), washed with a saturated solution of NaHCO3 (aq) (50 mL), brine (50 mL), dried over Na2SO4, filtered, concentrated by rotary evaporation and purified by flash chromatography (2:1 hexanes/EtOAc) to afford the title compound as a pale-yellow oil. EI-MS m/z 301 (M+H).

reactant | L-valine methyl ester hydrochloride | 3.24 mmol, 0.54 g | Cl.COC([C@@H](N)C(C)C)=O
reactant | DIEA | 11 mmol, 2.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (6-bromo-2-pyridyl)formaldehyde | 2.70 mmol, 0.50 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | NaBH(OAc)3 | 6.75 mmol, 1.4 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | AcOH | 4 mL | CC(=O)O | C2H4O2
product | Methyl 2-[(6-bromo-2-pyridylmethyl)amino]-3-methyl-butyrate | BrC1=CC=CC(=N1)CNC(C(=O)OC)C(C)C | C12H17BrN2O2
